### PR TITLE
Δ²-directed univalence and Space is Segal

### PR DESCRIPTION
**Pull request by samtoth**
Builds on #220
Derived from #206 

 - [x] Shows that the map `(Σ (B × Δ² → Type 𝓥) is-covariant) → Cov-Δ²-bundle B 𝓥` is a flat equivalence. Progress:
   - [x] Constructed putative inverse
   - [x] Is section
   - [x] Is retraction - atm I had to rely on the fact Δ² is Segal and coskeletal
 - [x] Consequently the map `(Δ² → Space 𝓤) → (Σ[ X Y Z ∶ Space 𝓤 ] (X → Y) × (Y → Z))` is also an equivalence. (This is directed $\Delta^2$ univalence for spaces)
 - [x] The type of spaces is Segal

### CODE REVIEW

File: src/Ergonomics/Extensionality.lagda.tree [hunk 1]
```diff
@@ -101,6 +100,11 @@ ext!≃'
     → IdS x y ≃ Id A x y
 ext!≃' ⦃ s ⦄ = Id≃IdS e⁻¹
 
+ext-id₀
```
Comment (samtoth) [inline src/Ergonomics/Extensionality.lagda.tree]:
```suggestion
ext-Id₀
```

File: src/Core/FunctorialityPullbacks.lagda.tree [hunk 2]
```diff
@@ -313,3 +313,25 @@ module _ {𝓤 𝓥 𝓦 𝓤' 𝓥' 𝓦'} {S : Cospan 𝓤 𝓥 𝓦} {T : Cos
...
+--     module D = Cone D
+--     module F = Cospan-map F
+
+--     field
+--       apex-map : A → B
+--       H₁ : D.i ∘ apex-map ~ F.h₁  ∘ C.i
+--       H₂ : D.j ∘ apex-map ~ F.h₃  ∘ C.j
+--       coh : {!F.H!}
+}
+}
```
Comment (samtoth) [inline src/Core/FunctorialityPullbacks.lagda.tree]:
```suggestion
```

File: src/Modalities/Cohesion/Continuity.lagda.tree [hunk 3]
```diff
@@ -146,17 +146,17 @@ equivalence then #{f} itself is an equivalence.}
 \agda{
 family-separates : ∀ {@♭ 𝓘 𝓤} {@♭ I : Type 𝓘} (@♭ G : I → Type 𝓤) → Typeω
 family-separates G = ∀ {@♭ 𝓤 𝓥} (@♭ fa : Arrow 𝓤 𝓥) (let @♭ f = Arrow.f fa)
-                     → @♭ is-equiv (♭-map f)
-                     → @♭ ((∀ {@♭ i} → is-equiv (♭-map (postcomp (G i) f))))
+                     → @♭ is-♭-equiv f
+                     → @♭ ((∀ {@♭ i} → is-♭-equiv (postcomp (G i) f)))
                      → is-equiv f
```
Comment (samtoth) [inline src/Modalities/Cohesion/Continuity.lagda.tree]: layout

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 4]
```diff
@@ -0,0 +1,712 @@
...
+
+Δ²-0≤1 : Hom Δ² 0 1
+Δ²-0≤1 .Homᵈ.hom i = (i , 0)
+Δ²-0≤1 .Homᵈ.hom0 = refl
+Δ²-0≤1 .Homᵈ.hom1 = refl
+
+Δ²-1≤2 : Hom Δ² 1 2
+Δ²-1≤2 .Homᵈ.hom i = (i1 , i)
+Δ²-1≤2 .Homᵈ.hom0  = Δ²-refl
+Δ²-1≤2 .Homᵈ.hom1  = Δ²-refl
```
Comment (samtoth) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: Should live somewhere else

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 5]
```diff
@@ -0,0 +1,712 @@
...
+           (Free-Lattice-is-lattice-algebra I I-distr .is-lattice-hom.pres-0)
+      ∙ I[x].0-bottom)
+      (I[x].≤-max p)
+  ∙ p
+Δ²-hom←≤ x y p .Homᵈ.hom1
+  = ap₂ I[x]._∧_
+      (I[x].1-coinit {x})
+      (I[x].≤-max p)
+  ∙ I[x].∧-comm
+  ∙ I[x].1-top
```
Comment (samtoth) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: Should live elsewhere

**Review by samtoth — COMMENTED** [review]
Small self review

File: src/Core/ArrowEquiv.lagda.tree [hunk 6]
```diff
@@ -172,6 +179,42 @@ inv-Arrow-equiv
...
+
+\agda{
+Arr≃⟨⟩-syntax
+  : ∀ {𝓤 𝓥 𝓦 𝓜 𝓝 𝓛} {A : Type 𝓤} {B : Type 𝓥} (f : A → B)
+      {C : Type 𝓦} {D : Type 𝓜} {g : C → D}
+      {X : Type 𝓝} {Y : Type 𝓛} {h : X → Y}
+    → Arrow-equiv g h → Arrow-equiv f g → Arrow-equiv f h
+Arr≃⟨⟩-syntax A g f = concat-Arrow-equiv f g
+
+_Arr≃⟨⟩_
```
Comment (fredrik-bakke) [inline src/Core/ArrowEquiv.lagda.tree]: Don't you find this ordering more aethsthetic? I think it's more intuitive. 
```suggestion
_≃Arr⟨⟩_
```

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 7]
```diff
@@ -248,26 +248,57 @@ _ = ♭-rec (ap♭ mod♭)
 }
 }
 
+\subtree[tot-AYGH]{
+\taxon{Definition}
+\title{#{\flat} equivalences}
+
+\p{We call a map #{f} a #{\flat} equivalence if #{\flat f} is an equivalence.}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree]: I believe this should be hyphenated
```suggestion
\title{#{♭}-Equivalences}

\p{We call a map #{f} a \em{#{\flat}-equivalence} if #{\flat f} is an equivalence.}
```

Comment (fredrik-bakke) [reply src/Modalities/Cohesion/Flat.lagda.tree]: Also, it's preferred to use unicode in headers as the search bar doesn't render math

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 8]
```diff
@@ -248,26 +248,57 @@ _ = ♭-rec (ap♭ mod♭)
...
+  : ∀ {@♭ 𝓤 𝓥} {@♭ A : Type 𝓤} {@♭ B : Type 𝓥}
+    → (@♭ f : A → B) → Type (𝓤 ⊔ 𝓥)
+is-♭-equiv f = is-equiv (♭-map f)
+}
+}
+
 \subtree[stt-00JR]{
 \taxon{Lemma}
-\title{Flat preserves equivalences}
+\title{Equivalences are flat equivalences}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree]:
```suggestion
\title{Equivalences are #{♭}-equivalences}
```

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 9]
```diff
@@ -248,26 +248,57 @@ _ = ♭-rec (ap♭ mod♭)
...
      → ⟨♭| A ⟩ ≃ ⟨♭| B ⟩
-♭≃ e = mk≃ (♭-map (e ._≃_.fwd)) (♭-map-is-equiv (e ._≃_.fwd-is-equiv))
+♭≃ e = mk≃ (♭-map (e ._≃_.fwd)) (is-♭-equiv←is-equiv (e ._≃_.fwd-is-equiv))
+}
+}
+
+\subtree[tot-YWE0]{
+\taxon{Lemma}
+
+\p{Flat equivalences are closed under composition.}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree]:
```suggestion
\p{#{\flat}-Equivalences are closed under composition.}
```
Or do you prefer it spelled out?

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 10]
```diff
@@ -408,6 +439,47 @@ snd♭ = snd
...
+        (map-Σ {X = ♭ᶠ X} {Y = ♭ᶠ Y} (♭-map f) (♭-ind λ a → ♭-map (g a)))
+  ♭-Σ₁ .fst .Arrow-Π.top = ♭-Σ' _
+  ♭-Σ₁ .fst .Arrow-Π.bot = ♭-Σ' _
+  ♭-Σ₁ .fst .Arrow-Π.comm (mod♭ a) = refl
+  ♭-Σ₁ .snd .fst = bwd-is-equiv (♭-commΣ _)
+  ♭-Σ₁ .snd .snd = bwd-is-equiv (♭-commΣ _)
+}
+
+\p{Consequently, #{\Sigma_f g} is a #{\flat} equivalence when #{f} is a #{\flat}
+equivalence and #{g} is a fibrewise #{\flat} equivalence.}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Flat.lagda.tree]:
```suggestion
\p{Consequently, #{\Sigma_f g} is a #{\flat}-equivalence when #{f} is a
#{\flat}-equivalence and #{g} is a fibrewise #{\flat}-equivalence.}
```

File: src/Modalities/Cohesion/Sharp.lagda.tree [hunk 11]
```diff
@@ -345,9 +345,9 @@ module ♯Lex where
 ♭⊣ᵈ♯-transpose f a .counit♯ = f .counit♯ (mod♭ a)
 
 ♭⊣ᵈ♯-transpose-bwd
-  : ∀ {𝓤 𝓥} {A : Type 𝓤} {B : A → Type 𝓥}
-  → ((a : A) → ⟨♯| B a ⟩) → ⟨♯| ((a♭ : ⟨♭| A ⟩) → B (ε♭ a♭)) ⟩
-♭⊣ᵈ♯-transpose-bwd f .counit♯ a♭ = f (ε♭ a♭) .counit♯
+  : ∀ {𝓤 𝓥} {A : Type 𝓤} {@♯ B : ⟨♭| A ⟩ → Type 𝓥}
```
Comment (fredrik-bakke) [inline src/Modalities/Cohesion/Sharp.lagda.tree:348]: The sharp modal annotation just looks so cool to me 🤩

File: src/Synthetic/Categories/DirectedGlueing.lagda.tree [hunk 12]
```diff
@@ -359,9 +369,72 @@ module _
...
+          (α b)
+  tr-Gl-0≤1 α Xc Yc b .fst .Arrow-Π.top = Gl-0 _ _ α b
+  tr-Gl-0≤1 α Xc Yc b .fst .Arrow-Π.bot = Gl-1 _ _ α b
+  tr-Gl-0≤1 α Xc Yc b .fst .Arrow-Π.comm x@(y , p)
+    = (fst ∘ tr-cov {P = Gl _ _ α} (Gl-is-covariant _ _ α Xc Yc) (b ,_)) x
+    ＝⟨ ap fst (tr-Gl α Xc Yc b x) ⟩
+      x .fst
+    ＝⟨ sym (p refl .snd) ⟩
+      α b (p refl .fst)
+    ∎
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/DirectedGlueing.lagda.tree]: I'd factor out the arrow map into a separate definition, because this looks very messy. Take it or leave it tho

File: src/Synthetic/Categories/DirectedGlueing.lagda.tree [hunk 13]
```diff
@@ -359,9 +369,72 @@ module _
...
+            (covariant-base-change
+              {P = Gl X Y α}
+              (b ,_)
+              (Gl-is-covariant X Y α Xc Yc) )
+            0≤1)
+          (α b)
+  tr-Gl-0≤1H α Xc Yc b .fst .Arrow-Π.top = Gl-0 _ _ α b
+  tr-Gl-0≤1H α Xc Yc b .fst .Arrow-Π.bot = Gl-1 _ _ α b
+  tr-Gl-0≤1H α Xc Yc b .fst .Arrow-Π.comm  x
+    = ap fst (tr-hom-Gl α Xc Yc b x) ∙ sym (x .snd refl .snd)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/DirectedGlueing.lagda.tree]: Same here I suppose, regarding factoring out the arrow map, but it's up to you

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 14]
```diff
@@ -95,7 +99,7 @@ module _
     : ∀ {@♭ 𝓤 𝓥} {@♭ B : Type 𝓤}
         (@♭ F G : Σ (B × Δ¹ → Type 𝓥) is-covariant)
         (@♭ α : fibrewise-map (F .fst) (G .fst))
-      → @♭ (∀ (@♭ b : B) (@♭ x : ∂Δ¹) → is-equiv (♭-map (α (b , ∂Δ¹-incl x))))
+      → @♭ (∀ (@♭ b : B) (@♭ x : ∂Δ¹) → is-♭-equiv (α (b , ∂Δ¹-incl x)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree:102]:
```suggestion
      → @♭ ((@♭ b : B) (@♭ x : ∂Δ¹) → is-♭-equiv (α (b , ∂Δ¹-incl x)))
```

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 15]
```diff
@@ -108,10 +112,39 @@ module _
...
+    : ∀ {𝓤} (P : @♭ Δ² → Prop 𝓤) → (∀ (@♭ x : Fin 3) → P (Δ²-point-incl x) .fst)
+    → (@♭ x : Δ²) → P x .fst)
+  where
+
+  points-Δ²-cov-Nat-is-equiv
+    : ∀ {@♭ 𝓤 𝓥} {@♭ B : Type 𝓤}
+        (@♭ F G : Σ (B × Δ² → Type 𝓥) is-covariant)
+        (@♭ α : fibrewise-map (F .fst) (G .fst))
+      → @♭ (∀ (@♭ b : B) (@♭ x : Fin 3) → is-♭-equiv (α (b , Δ²-point-incl x)))
+      → is-fibrewise-equiv α
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree:141]: Would be nice to have an informal explanation of this result.

File: src/Synthetic/Categories/DirectedGlueing.lagda.tree [hunk 16]
```diff
@@ -359,9 +369,72 @@ module _
...
+  tr-Gl-0≤1H α Xc Yc b .snd .fst = Gl-0-is-equiv _ _ α b
+  tr-Gl-0≤1H α Xc Yc b .snd .snd = Gl-1-is-equiv _ _ α b
+
+  tr-Gl-0≤1
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/DirectedGlueing.lagda.tree:413]: would be nice to have an informal explanation of this too.

File: src/Synthetic/Categories/Precategories.lagda.tree [hunk 17]
```diff
@@ -125,6 +127,35 @@ module Segal where
   open gRSubUHomClosure Segal-gRSubU public
 }
 
+\subtree[tot-0781]{
+\taxon{Lemma}
+\author{samueltoth}
+
+\p{A type is Segal if the following square is cartesian.}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Precategories.lagda.tree]: This formalisation is a bit messy. The more conceptual way would be to exhibit a certain equivalence of arrows, I believe, from which it also follows that this is an iff. In fact, even better, I suppose this holds more generally for any map defined by a cocone, such as `Λ[2,1]-incl`

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 18]
```diff
@@ -23,10 +23,30 @@ open import Axioms.UF
...
+Δ¹-point-incl : Fin 2 → Δ¹
+Δ¹-point-incl fzero = i0
+Δ¹-point-incl (fsuc fzero) = i1
+
+instance
+  Number-Δ¹ : Number Δ¹
+  Number-Δ¹ .Number.Constraint m = m <ℕ 2
+  Number-Δ¹ .Number.fromNat n = Δ¹-point-incl (Fin←ℕ n 2 auto!)
+}
+}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree:48]: Very nice! Could be extended to \Delta^n and the horns too.

File: src/Synthetic/Categories/WalkingHom.lagda.tree [hunk 19]
```diff
@@ -35,7 +55,7 @@ open import Synthetic.Hom Δ¹ i0 i1
 function.}
 
 \agda{
-0≤1 : Hom Δ¹ i0 i1
+0≤1 : Hom Δ¹ 0 1
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/WalkingHom.lagda.tree:58]: Cool! Maybe later we can get completely rid of the endpoint renaming in every module and just use numeral notation

File: src/Synthetic/Hom.lagda.tree [hunk 20]
```diff
@@ -146,6 +146,12 @@ adjust-hom
     → Hom A x y → Hom A x' y'
 adjust-hom p q (mk-hom fh f0 f1) = mk-hom fh (f0 ∙ p) (f1 ∙ q)
 
+adjust-homᵈ
+  : ∀ {𝓤} (A : I → Type 𝓤) {x x' : A i0} {y y' : A i1}
+    → x ＝ x' → y ＝ y'
+    → Homᵈ A x y → Homᵈ A x' y'
+adjust-homᵈ A p q (mk-hom fh f0 f1) = mk-hom fh (f0 ∙ p) (f1 ∙ q)
```
Comment (fredrik-bakke) [inline src/Synthetic/Hom.lagda.tree:153]: Remind me to rename the `rebase=` helper for the semilattices are sets formalisation to `adjust-=` or similar

File: src/Synthetic/Tiny.lagda.tree [hunk 21]
```diff
@@ -355,12 +355,12 @@ module Tiny {@♭ 𝓘} (@♭ I : Type 𝓘)
...
     (mk≃ _ (types-separate (√ε ∘ const) lemma) e⁻¹)
     𝟙-is-singleton where
-    lemma : ∀ {@♭ 𝓦} {@♭ X : Type 𝓦} → is-equiv (♭-map (postcomp X _))
+    lemma : ∀ {@♭ 𝓦} {@♭ X : Type 𝓦} → is-♭-equiv (postcomp X _)
     lemma
       = is-equiv-~∘
           {f = ♭-map (λ _ _ → tt)}
           (λ a → is-prop←is-single (♭-is-single single!) _ _)
-            (♭-map-is-equiv (is-equiv←single-to-prop single! (λ _ _ → prop!) _))
+            (is-♭-equiv←is-equiv (is-equiv←single-to-prop single! (λ _ _ →  prop!) _))
```
Comment (fredrik-bakke) [inline src/Synthetic/Tiny.lagda.tree]:
```suggestion
            (is-♭-equiv←is-equiv (is-equiv←single-to-prop single! (λ _ _ → prop!) _))
```

File: src/Synthetic/Triangles.lagda.tree [hunk 22]
```diff
@@ -29,6 +29,105 @@ open import Core.CanonicalPushouts
...
 open import Synthetic.Boundaries Δ¹ I
 open import Synthetic.Horns Δ¹ I
+open import Synthetic.Categories.WalkingHom Δ¹ I
+
+open import Ergonomics.Auto
+}
+}
+
+\subtree[tot-0019]{
+\title{Basic objects and morphosms of #{Δ²}}
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]:
```suggestion
\title{Basic objects and morphisms of #{Δ²}}
```

File: src/Synthetic/Triangles.lagda.tree [hunk 23]
```diff
@@ -29,6 +29,105 @@ open import Core.CanonicalPushouts
...
+
+\p{#{Δ²} has objects #{(0,0)}, #{(1,0)} and #{(1,1)}, which we denote by #{0, 1}
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]:
```suggestion
\p{#{Δ²} has objects #{(0,0)}, #{(1,0)} and #{(1,1)}, which we denote by #{0}, #{1},
```

File: src/Synthetic/Triangles.lagda.tree [hunk 24]
```diff
@@ -29,6 +29,105 @@ open import Core.CanonicalPushouts
...
+\p{We have canonical morphisms #{0 \le 1} and #{1 \le 2}.}
+
+\agda{
+Δ²-0≤1 : Hom Δ² 0 1
+Δ²-0≤1 .Homᵈ.hom i = (i , 0)
+Δ²-0≤1 .Homᵈ.hom0 = refl
+Δ²-0≤1 .Homᵈ.hom1 = refl
+
+Δ²-1≤2 : Hom Δ² 1 2
+Δ²-1≤2 .Homᵈ.hom i = (i1 , i)
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]: Does this work?
```suggestion
Δ²-1≤2 .Homᵈ.hom i = (1 , i)
```

File: src/Synthetic/Triangles.lagda.tree [hunk 25]
```diff
@@ -29,6 +29,105 @@ open import Core.CanonicalPushouts
...
+certain definitions will hold by reflexivity and others will need to appeal to the
+fact that #{Δ²} is a set.}
+}
+
+\p{We make a choice of specified morphism #{x \le 2} for any #{x : Δ²}.
+(note that for similar reasons as above, we allow any
+choice of witness that #{1 \le 1} for the object #{2 : \Delta^2})}
+
+\agda{
+Δ²-top : ∀ x {p} → Hom Δ² x ((i1 , i1) ⦃ p ⦄)
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]: Does this work?
```suggestion
Δ²-top : ∀ x {p} → Hom Δ² x ((1 , 1) ⦃ p ⦄)
```

Comment (fredrik-bakke) [reply src/Synthetic/Triangles.lagda.tree]: Btw, while we're changing up notation, I'd like it if we changed the comma for $\Delta^2$ to `_≥,_` or `_,≥,_`.

Comment (fredrik-bakke) [reply src/Synthetic/Triangles.lagda.tree]: or `_,≥_` for that matter

File: src/Synthetic/Triangles.lagda.tree [hunk 26]
```diff
@@ -29,6 +29,105 @@ open import Core.CanonicalPushouts
...
+\agda{
+module _ (I-distr : is-distributive I) where
+
+  private module I[x] = Lattice (Free-Lattice I I-distr)
+
+  Δ²-hom←≤ : ∀ x y → (x I[x].≤ y) → Hom Δ² x y
+  Δ²-hom←≤ x y p .Homᵈ.hom i = (x I[x].∨ ι-const i) I[x].∧ (x I[x].∨ y)
+  Δ²-hom←≤ x y p .Homᵈ.hom0
+    = ap₂ (I[x]._∧_)
+        ( ap (x I[x].∨_)
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]:
```suggestion
    = ap₂
        (I[x]._∧_)
        ( ap (x I[x].∨_)
```

File: src/Synthetic/Triangles.lagda.tree [hunk 27]
```diff
@@ -29,6 +29,105 @@ open import Core.CanonicalPushouts
...
+             (Free-Lattice-is-lattice-algebra I I-distr .is-lattice-hom.pres-0)
+        ∙ I[x].0-bottom)
+        (I[x].≤-max p)
+    ∙ p
+  Δ²-hom←≤ x y p .Homᵈ.hom1
+    = ap₂ I[x]._∧_
+        (I[x].1-coinit {x})
+        (I[x].≤-max p)
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]:
```suggestion
    = ap₂ (I[x]._∧_) (I[x].1-coinit {x}) (I[x].≤-max p)
```

File: trees/stt/tot-YRY4.tree [hunk 28]
```diff
@@ -0,0 +1,40 @@
+\title{The type of Spaces is a Segal}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]: Maybe call it the "classifier" rather than "type"? Also, the `a` shouldn't be there.

File: trees/stt/tot-YRY4.tree [hunk 29]
```diff
@@ -0,0 +1,40 @@
...
+\date{2026-08-30}
+\meta{source}{[PR\startverb#\stopverb218](https://github.com/samtoth/agda-synthetic-categories/pull/218)}
+\meta{source}{[PR\startverb#\stopverb220](https://github.com/samtoth/agda-synthetic-categories/pull/220)}
+\meta{source}{[PR\startverb#\stopverb225](https://github.com/samtoth/agda-synthetic-categories/pull/225)}
+\import{stt-macros}
+
+
+\p{This changelog details the work I have done recently on
+cleaning up and extending the formalisation of the category of
+Spaces.}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
spaces.}
```

File: trees/stt/tot-YRY4.tree (hunk 28 above)
Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]:
```suggestion
\title{The classifier of spaces is Segal}
```

File: trees/stt/tot-YRY4.tree [hunk 30]
```diff
@@ -0,0 +1,40 @@
...
+
+\ul{
+  \li{Firstly cleans up a hole in the original proof, namely that #{X \to Y} is covariant for
+  contravariant families #{X} and covariant families #{Y}.}
+  \li{A nice lemma about fibrewise equivalences of covariant families using cubes separate.}
+  \li{We can liberate directed univalence from the existence of a classifying object with cohesive type theory}
+  \li{This made the interface glueing reusable – can define glueing of a 2-simlex in terms of normal glueing.
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
  \li{This made the interface glueing reusable – can define glueing of a 2-simplex in terms of normal glueing.
```

File: trees/stt/tot-YRY4.tree [hunk 31]
```diff
@@ -0,0 +1,40 @@
...
+      Get nice properties for free.}
+  \li{We also get that in type theory with an interval, the type of left fibrations over the #{\Gamma \times \II}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
  \li{We also get that in type theory with an interval, the type of left fibrations over #{\Gamma \times \II}
```

File: trees/stt/tot-YRY4.tree [hunk 32]
```diff
@@ -0,0 +1,40 @@
...
+      is a retract of the type of maps of left fibrations over #{\Gamma}.}
+  \li{Nice little proof of Segalness as a result}
+  \li{Weakening cubes separate}
+  \li{Horn glueing relies on Segal-ness of #{Delta^2}, a not yet formalised consequence of cubes separate}
+  \li{Still rely on the tiny type former preserving pullbacks}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]: What's the expected resolution to this final point?

File: trees/stt/stt-00XH.tree
Comment (fredrik-bakke) [inline trees/stt/stt-00XH.tree:1]: I presume this changelog entry is still work in progress

**Review by fredrik-bakke — COMMENTED** [review]
Nice work! Things seem to be coming together :)

File: src/Modalities/Cohesion/Sharp.lagda.tree (hunk 11 above)
Comment (samtoth) [reply src/Modalities/Cohesion/Sharp.lagda.tree:348]: 😎

File: trees/stt/tot-YRY4.tree (hunk 28 above)
Comment (samtoth) [reply trees/stt/tot-YRY4.tree]:
```suggestion
\title{The left fibration classifier is Segal}
```
?

File: trees/stt/stt-00XH.tree
Comment (samtoth) [reply trees/stt/stt-00XH.tree:1]: Yes – sorry should have mentioned

File: trees/stt/tot-YRY4.tree (hunk 28 above)
Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]: It's also the right fibration classifier tho 🤔

File: trees/stt/tot-YRY4.tree (hunk 32 above)
Comment (samtoth) [reply trees/stt/tot-YRY4.tree]: Well I'd like to resolve it but ran into coherence hell. E.g. see here
https://github.com/samtoth/agda-synthetic-categories/pull/206/changes#diff-b9713bd52320e7962ff5e81152c976a019172edfbd659d41b930c75ad4ef4aebR491-R571

Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]: So it is expected that the tiny type former preserves pullbacks, you just haven't been able to show it yet?

File: trees/stt/tot-YRY4.tree (hunk 28 above)
Comment (samtoth) [reply trees/stt/tot-YRY4.tree]: I don't think so?

Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]: oh... okay then

File: trees/stt/tot-YRY4.tree (hunk 32 above)
Comment (samtoth) [reply trees/stt/tot-YRY4.tree]: Yes absolutely. It's a right adjoint so the standard argument ought to 'just work'™️ but it's proved to be a bit fidly

File: trees/stt/tot-YRY4.tree (hunk 28 above)
Comment (samtoth) [reply trees/stt/tot-YRY4.tree]: Unless I'm mistaken, the right fibration classifier would be equivalent Space^op

File: trees/stt/tot-YRY4.tree (hunk 32 above)
Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]: ah I see. You should add this to the changelog!

Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]: It sounds like it should be really easy...

Comment (fredrik-bakke) [reply trees/stt/tot-YRY4.tree]: Would be good to add issues for these loose ends btw

Comment (samtoth) [reply trees/stt/tot-YRY4.tree]: Yep good idea: #256

File: src/Synthetic/Categories/DirectedGlueing.lagda.tree (hunk 12 above)
Comment (samtoth) [reply src/Synthetic/Categories/DirectedGlueing.lagda.tree]: This is where it would be nicer if an arrow equiv was a pair of equivalences whose underlying maps commute, rather than an arrow map which is an equivalence! But yeah, for now probably is cleaner to have separate definitions

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree (hunk 14 above)
Comment (samtoth) [reply src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree:102]: I think the forall actually helps break up the type signature visually for me. Do you have a reason against it?

File: src/Synthetic/Triangles.lagda.tree (hunk 25 above)
Comment (samtoth) [reply src/Synthetic/Triangles.lagda.tree]: Yeah good point

File: src/Synthetic/Triangles.lagda.tree (hunk 24 above)
Comment (samtoth) [reply src/Synthetic/Triangles.lagda.tree]: Very strangely, it does not :(

I get an error

```
The terms
  i
and
  i1
are not equal at type Δ¹
when checking that i is a valid argument to a function of type
(t : Δ¹) ⦃ mono : t ≤ Number.fromNat Number-Δ¹ 1 ⦄ → Poly.Δ² I
```

If I expand it manually to `(1 , i) {{ auto! }}`

I still get a similar error:

```
The terms
  i
and
  i1
are not equal at type Δ¹
when checking that the expression auto! has type
i ≤ Number.fromNat Number-Δ¹ 1
```

But if I replace `auto!` with `1-top` everything is fine.... so there's definitely some weird interaction going on here.

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree (hunk 15 above)
Comment (samtoth) [reply src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree:141]: Let me know if you think updated version is clear enough

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree (hunk 14 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree:102]: For me it interrupts the type signature making it just look like a mess to me. If you want to keep it feel free, but I think we should form a convenition about this.

File: src/Synthetic/Triangles.lagda.tree (hunk 24 above)
Comment (fredrik-bakke) [reply src/Synthetic/Triangles.lagda.tree]: Sounds like an instance resolution issue

Comment (fredrik-bakke) [reply src/Synthetic/Triangles.lagda.tree]: I think you should write
```suggestion
Δ²-1≤2 .Homᵈ.hom i = (1 , i) ⦃ 1-top ⦄
```

then, so we can eventually get rid of the aliases `i1` and `i0`

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 33]
```diff
@@ -108,10 +112,47 @@ module _
...
-              → ( is-equiv (♭-map (α (b , x))))
+              → ( is-♭-equiv (α (b , x)))
                 , is-equiv-is-prop)
              (αeq b ∂Δ¹-0 )
              (αeq b ∂Δ¹-1)
              i})
 }
+
+\p{We may also consider the analogous result for the 2-simplex, but this time
+assuming that the 3 element type covers the crisp elements of #{Δ²} as well as cubes
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree]:
```suggestion
\p{We may also consider the analogous result for the 2-simplex, but this time
assuming that the 3 element type covers the crisp elements of #{Δ²} as well as that cubes
```

**Comment by samtoth** [comment]
I have addressed all the comments, and have finished writing the changelog

File: src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree [hunk 34]
```diff
@@ -108,10 +112,47 @@ module _
...
+        (F .fst , is-left-family↔is-covariant (F .fst) .snd (F .snd))
+        (G .fst , is-left-family↔is-covariant (G .fst) .snd (G .snd))
+        α
+        (λ {(b , i)
+         → ♭Δ²-ind
+             (λ x
+              → ( is-♭-equiv (α (b , x))
+                , is-equiv-is-prop))
+             (αeq b)
+             i})
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/EquivCovariantFamilies.lagda.tree]:
```suggestion
        (λ (b , i) 
         → ♭Δ²-ind (λ x → (is-♭-equiv (α (b , x)) , is-equiv-is-prop)) (αeq b) i)
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 35]
```diff
@@ -0,0 +1,785 @@
...
+open import Synthetic.Categories.WalkingHom Δ¹ I
+open import Synthetic.Categories.CovariantFamilies Δ¹ I
+open import Synthetic.Categories.CovariantClosure Δ¹ I
+open import Synthetic.Categories.DirectedGlueing Δ¹ I 0≠1 Δ¹-is-directed
+}
+}
+
+\agda{
+Δ²-is-segal : is-segal Δ²
+Δ²-is-segal = is-segal←retract Δ²-retract-Δ¹×Δ¹ (×-is-segal Δ¹-is-segal Δ¹-is-segal)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree:80]: This file is not the appropriate place to register this fact

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 36]
```diff
@@ -0,0 +1,785 @@
...
+Cov-Δ²-bundle-decoh
+  : ∀ {𝓤 𝓥} {B : Type 𝓤} → Cov-Δ²-bundle B 𝓥 → Cov-Δ²-bundle' B 𝓥
+Cov-Δ²-bundle-decoh (A , B , C , f , g)
+  = ( A
+    , B
+    , B
+    , C
+    , (λ _ → id≃)
+    , f
+    , g)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: Any reason not to write the following?
```suggestion
  = (A , B , B , C , (λ _ → id≃) , f , g)
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 37]
```diff
@@ -0,0 +1,785 @@
...
+
+\agda{
+Cov-Δ²-bundle-coh
+  : ∀ {𝓤 𝓥} {B : Type 𝓤} → Cov-Δ²-bundle' B 𝓥 → Cov-Δ²-bundle B 𝓥
+Cov-Δ²-bundle-coh (X , Y , Y' , Z , e , f , g)
+  = ( X
+    , Y
+    , Z
+    , (λ b → f b ∘ e b ._≃_.fwd)
+    , g)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
  = (X , Y , Z , (λ b → f b ∘ e b ._≃_.fwd) , g)
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree:1]: shoot I think I forgot to review this file last time

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 38]
```diff
@@ -0,0 +1,785 @@
...
+
+\subtree[tot-ABDE]{
+\taxon{Idea}
+\author{samueltoth}
+
+\p{In \ref{Synthetic.Categories.DirectedGlueing}, a glue type is used to give an
+equivalence between [covariant families](stt-00AY) over #{\Gamma \times \Delta^1} and
+pairs of covariant families over #{\Gamma} and maps between them
+(\ref{stt-00V2}); this in turn shows that
+the [category of Spaces](stt-00AS) is directed univalent (\ref{stt-00AT}).
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
the [category of spaces](stt-00AS) is directed univalent (\ref{stt-00AT}).
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 39]
```diff
@@ -0,0 +1,785 @@
...
+In this module we extend this construction to equivalences between covariant families
+over #{\Gamma \times \Delta^2} and tripples of covariant families and composable
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
over #{\Gamma \times \Delta^2} and triples of covariant families and composable
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 40]
```diff
@@ -0,0 +1,785 @@
...
+maps between them. This is a crucial ingredient in the proof that [the category of
+Spaces is Segal](tot-YE55).}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
spaces is Segal](tot-YE55).}
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 41]
```diff
@@ -0,0 +1,785 @@
...
+\title{The induced transport of a covariant family over #{Δ²}}
+\taxon{Construction}
+
+\p{Given a covariant type family over #{B \times \Delta^2}, we can construct a
+[covariant #{Δ²}-bundle over #{B}](tot-A002) via covariant transport.}
+
+\agda{
+total-tr²-cov : ∀ {𝓤 𝓥} {B : Type 𝓤}
+      → (Σ (B × Δ² → Type 𝓥) is-covariant)
+      → Cov-Δ²-bundle B 𝓥
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
total-tr²-cov
  : ∀ {𝓤 𝓥} {B : Type 𝓤}
    → Σ (B × Δ² → Type 𝓥) is-covariant
    → Cov-Δ²-bundle B 𝓥
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 42]
```diff
@@ -0,0 +1,785 @@
...
+total-tr²-cov (F , Fcov)
+  = ( (F ∘ (_, 0) , covariant-base-change {P = F} (_, 0) Fcov)
+    , (F ∘ (_, 1) , covariant-base-change {P = F} (_, 1) Fcov)
+    , (F ∘ (_, 2) , covariant-base-change {P = F} (_, 2) Fcov)
+    , (λ b → tr-cov-hom {P = F ∘ (b ,_)} (covariant-base-change {P = F} (b ,_) Fcov) Δ²-1≤2)
+    , (λ b → tr-cov-hom {P = F ∘ (b ,_)} (covariant-base-change {P = F} (b ,_) Fcov) Δ²-0≤1))
+}
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 43]
```diff
@@ -0,0 +1,785 @@
...
+         (tr-cov-over {P = F} Fc Δ²-1≤2 a)))
+tr-Δ²-1≤2-lemma F Fc .snd = (tr-is-equiv Δ²-refl , tr-is-equiv Δ²-refl)
+}
+}
+
+\subtree[tot-R002]{
+\title{The glueing of a composable pair of maps}
+\taxon{Construction}
+
+\p{We hope to give a putative inverse to the map defined in \ref{tot-R007}. I.e.
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: "we hope" is a bit weak, given that you're _actually_ constructing it, right?

```suggestion
\p{We give a putative inverse to the map defined in \ref{tot-R007}. I.e.
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 44]
```diff
@@ -0,0 +1,785 @@
...
+given a pair of composable fibrewise maps between covariant type families over
+some base #{B}, we give a covariant family over #{B \times \Delta^2}. Following
+\citek{GWB26} we define such a covariant via a kind of 'iteration' of the
+[glue construction](stt-00UY) used to prove [directed univalence](stt-00V2).}
+
+\p{Concretely, given #{X,Y,Z \colon B \to \Type} and #{\alpha \colon X \to Y} and
+#{\beta \colon Y \to Z}, we may construct a type family
+#{Gl(\alpha) \colon B \times \Delta^1 \to \Type}, as well as a fibrewise map to
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: `Gl` should be given a macro, and typeset in a special font. Then

```suggestion
#{\Gl(\alpha) \colon B \times \Delta^1 \to \Type}, as well as a fibrewise map to
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 45]
```diff
@@ -0,0 +1,785 @@
...
+#{Z} viewed as a type family over #{B \times Δ¹} with a trivial dependence on
+#{\Delta^1}. Since we have a pair of covariant families and a fibrewise map between
+them, we may use glueing again to to obtain a covariant family over
+#{(B \times \Delta^1) \times \Delta^1 = B \times \II ^2}. Finally, we may restrict
+to obtain a covariant family over #{B \times Δ²} which we denote #{Gl^2(\alpha, \beta).}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
to obtain a covariant family over #{B \times Δ²} which we denote #{\Gl^2(\alpha, \beta).}
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 46]
```diff
@@ -0,0 +1,785 @@
...
+\citek{GWB26} we define such a covariant via a kind of 'iteration' of the
+[glue construction](stt-00UY) used to prove [directed univalence](stt-00V2).}
+
+\p{Concretely, given #{X,Y,Z \colon B \to \Type} and #{\alpha \colon X \to Y} and
+#{\beta \colon Y \to Z}, we may construct a type family
+#{Gl(\alpha) \colon B \times \Delta^1 \to \Type}, as well as a fibrewise map to
+#{Z} viewed as a type family over #{B \times Δ¹} with a trivial dependence on
+#{\Delta^1}. Since we have a pair of covariant families and a fibrewise map between
+them, we may use glueing again to to obtain a covariant family over
+#{(B \times \Delta^1) \times \Delta^1 = B \times \II ^2}. Finally, we may restrict
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
#{(B \times \Delta^1) \times \Delta^1 = B \times \II^2}. Finally, we may restrict
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 47]
```diff
@@ -0,0 +1,785 @@
...
+
+  Gl²' : (B × Δ¹) × Δ¹ → Type (𝓘 ⊔ 𝓥)
+  Gl²' = Gl (Gl X Y α) (Z ∘ fst) (uncurry fibre-map ∘ ×-swap→)
+
+  Gl²-as-base-change : Gl² ~ Gl²' ∘ _≃_.bwd ×-assoc ∘ (id ⊗ □←Δ²-upper)
+  Gl²-as-base-change = ~refl
+}
+
+\p{We verify that #{Gl^2(\alpha, \beta)(0) \simeq X}, #{Gl^2(\alpha, \beta)(1) \simeq Y}
+and #{Gl^2(\alpha, \beta)(2) \simeq Z}}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
\p{We verify that #{\Gl^2(\alpha, \beta)(0) \simeq X}, #{\Gl^2(\alpha, \beta)(1) \simeq Y}
and #{\Gl^2(\alpha, \beta)(2) \simeq Z}}
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 48]
```diff
@@ -0,0 +1,785 @@
...
+
+\proof{
+The directed horn glueing family arises as a base-change of a directed glueing of
+covariant families, which by \ref{stt-00UZ} is covariant.
+}
+
+\agda{
+module Gl²-cov
+  {𝓤 𝓥} {B : Type 𝓤}
+  (X Y Z : B → Type (𝓘 ⊔ 𝓥)) (β : ∀ b → Y b → Z b) (α : ∀ b → X b → Y b)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
  {𝓤 𝓥} {B : Type 𝓤} {X Y Z : B → Type (𝓘 ⊔ 𝓥)}
  (β : ∀ b → Y b → Z b) (α : ∀ b → X b → Y b)
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 49]
```diff
@@ -0,0 +1,785 @@
...
+#{\Delta^1}. Since we have a pair of covariant families and a fibrewise map between
+them, we may use glueing again to to obtain a covariant family over
+#{(B \times \Delta^1) \times \Delta^1 = B \times \II ^2}. Finally, we may restrict
+to obtain a covariant family over #{B \times Δ²} which we denote #{Gl^2(\alpha, \beta).}
+}
+
+\agda{
+module HornGlueing
+  {𝓤 𝓥} {B : Type 𝓤}
+  (X Y Z : B → Type (𝓘 ⊔ 𝓥)) (β : ∀ b → Y b → Z b) (α : ∀ b → X b → Y b)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
  {𝓤 𝓥} {B : Type 𝓤} {X Y Z : B → Type (𝓘 ⊔ 𝓥)}
  (β : ∀ b → Y b → Z b) (α : ∀ b → X b → Y b)
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 50]
```diff
@@ -0,0 +1,785 @@
...
+
+\proof{
+\p{If #{\alpha \colon X \to Y} and #{\beta \colon Y \to Z} is a covariant
+#{\Delta^2}-bundle, we must show that the induced covariant transport of the
+[iterated glueing construction](tot-R002) is equivalent to the one we started with. }
+
+\p{We use the second characterisation of covariant #{Δ²}-bundles as a pair of
+[covariant #{\Delta^1}-bundles](stt-00V3) with an equivalence between their central
+families so that we may construct a suitably compatible pair of equivalences
+#{Gl^2(α,β)(0\le 1) \simeq α} and #{Gl^2(α,β)(1\le 2) \simeq β}.}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
#{\Gl^2(α,β)(0\le 1) \simeq α} and #{\Gl^2(α,β)(1\le 2) \simeq β}.}
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 51]
```diff
@@ -0,0 +1,785 @@
...
+Gl^2(α,β)(0 \le_{Δ²} 1) &\simeq (Gl^2(α,β) \circ \delta_2^2)(0 \le_{Δ¹} 1) \\
+&\simeq Gl(\alpha)(0 \le 1) \\
+&\simeq \alpha
+\end{align}
+}
+
+##{
+\begin{align}
+Gl^2(α,β)(1 \le 2) &\simeq (Gl^2(α,β) \circ \delta_0^2)(0 \le_{Δ¹} 1)\tag{1} \\
+&\simeq Gl(Gl(α)(1), Z, \phi(1))(0 \le 1) \\
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
\Gl^2(α,β)(0 \le_{Δ²} 1) &\simeq (\Gl^2(α,β) \circ \delta_2^2)(0 \le_{Δ¹} 1) \\
&\simeq \Gl(\alpha)(0 \le 1) \\
&\simeq \alpha
\end{align}
}

##{
\begin{align}
\Gl^2(α,β)(1 \le 2) &\simeq (\Gl^2(α,β) \circ \delta_0^2)(0 \le_{Δ¹} 1)\tag{1} \\
&\simeq \Gl(\Gl(α)(1), Z, \phi(1))(0 \le 1) \\
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 52]
```diff
@@ -0,0 +1,785 @@
...
+&\simeq β
+\end{align}
+}
+
+\ol{
+\li{Follows from \ref{tot-AYWW}}
+\li{Since #{Gl^2(α,β) \delta_2^2} is equivalent as a map to #{Gl(\alpha)}}
+\li{By the [transport lemma for 'ordinary' directed glueing](stt-00V4)}
+\li{By \ref{tot-AYWW}}
+\li{By computing #{Gl^2(α,β) \delta_0^2} (where #{\phi} is the fibrewise map from \ref{tot-R002})}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
\li{Since #{\Gl^2(α,β) \delta_2^2} is equivalent as a map to #{\Gl(\alpha)}}
\li{By the [transport lemma for 'ordinary' directed glueing](stt-00V4)}
\li{By \ref{tot-AYWW}}
\li{By computing #{\Gl^2(α,β) \delta_0^2} (where #{\phi} is the fibrewise map from \ref{tot-R002})}
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 53]
```diff
@@ -0,0 +1,785 @@
...
+}
+}
+}
+
+\agda{
+module _
+  {𝓤 𝓥} {B : Type 𝓤} (c@((X , Xc) , (Y , Yc) , (Z , Zc) , f , g) : Cov-Δ²-bundle B (𝓘 ⊔ 𝓥))
+  where
+  open HornGlueing {𝓤} {𝓥} X Y Z f g
+  open Gl²-cov {𝓤} {𝓥} X Y Z f g
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: I'd prefer putting `open` statements in the `module` telescope instead, because it appears as declarative rather than imperative.

```suggestion
  (open HornGlueing {𝓤} {𝓥} X Y Z f g)
  (open Gl²-cov {𝓤} {𝓥} X Y Z f g)
  where
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 54]
```diff
@@ -0,0 +1,785 @@
...
+
+\p{The map defined in \ref{tot-R007} induces an equivalence between covariant
+families over #{B \times \Delta^2} and the type consisting of a triple of covariant
+families over #{B} and fibrewise maps between them.}
+
+\agda{
+module _
+  {𝓤 𝓥} {B : Type 𝓤}
+  where
+  open Gl²-cov {𝓤} {𝓥}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: I'd prefer putting `open` statements in the `module` telescope instead, because it appears as declarative rather than imperative.
```suggestion
module _ {𝓤 𝓥} {B : Type 𝓤} (open Gl²-cov {𝓤} {𝓥}) where
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 55]
```diff
@@ -0,0 +1,785 @@
...
+          (total-tr²-cov (tr²Σ-inv {𝓤} {𝓥} c))
+          c
+          tr-Gl²-1≤2
+          tr-Gl²-0≤1
+          tr-Gl²-1~
+}
+
+\p{We now show that this map defines a right inverse. For a covariant family
+#{F} over #{B \times \Delta^2}, we need that #{F(b,i)} is equal to
+#{Gl^2(F(b,({-},0))_*, F(b,(1,{-}))_*)}. By univalence we may give a fibrewise map
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
#{\Gl^2(F(b,({-},0))_*, F(b,(1,{-}))_*)}. By univalence we may give a fibrewise map
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 56]
```diff
@@ -0,0 +1,785 @@
...
+module _
+  {@♭ 𝓤 𝓥} {@♭ B : Type 𝓤}
+  (@♭ crisp-cov-Nat-is-equiv
+        : ∀ {@♭ 𝓤} (@♭ F G : Σ (B × Δ² → Type 𝓤) is-covariant)
+            (@♭ α : ∀ i → F .fst i → G .fst i)
+          → @♭ (∀ (@♭ b : B) (@♭ x : Fin (suc (suc (suc zero))))
+                → is-♭-equiv (α (b , Δ²-point-incl x)))
+          → is-fibrewise-equiv α)
+  where
+  open HornGlueing {𝓤} {𝓥}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: move to module telescope

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 57]
```diff
@@ -0,0 +1,785 @@
...
+\agda{
+module _
+  {𝓤 𝓥} {B : Type 𝓤}
+  (FF@(F , Fc) : Σ (B × Δ² → Type (𝓘 ⊔ 𝓥)) is-covariant)
+  (let Fbc b = covariant-base-change {P = F} (b ,_) Fc)
+  where
+  open HornGlueing {𝓤} {𝓥}
+         (F ∘ (_, 0)) (F ∘ (_, 1)) (F ∘ (_, 2))
+         (λ b → tr-cov-hom {P = F ∘ (b ,_)} (Fbc b) Δ²-1≤2)
+         (λ b → tr-cov-hom {P = F ∘ (b ,_)} (Fbc b) Δ²-0≤1)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: Move to module telescope

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 58]
```diff
@@ -0,0 +1,785 @@
...
+    -- and is how it is done in Shulman's original work on cohesive
+    -- type theory
+    ♭Fin-ind₃
+      : ∀ {@♭ 𝓤} (@♭ P : (@♭ x : Fin 3) → Type 𝓤)
+        → @♭ (P 0) → @♭ (P 1) → @♭ P 2 → ∀ (@♭ x) → P x
+    ♭Fin-ind₃ P p0 p1 p2 x = (♭⊣ᵈ♯-transpose-bwd {B = ♭-ind P}
+      (λ { fzero .counit♯ → p0
+         ; (fsuc fzero) .counit♯ → p1
+         ; (fsuc (fsuc fzero)) .counit♯ → p2})
+      .counit♯) (mod♭ x)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: This comment is maybe a bit casual? Also, it could go as a `\remark` rather than code comments.

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 59]
```diff
@@ -0,0 +1,785 @@
...
+
+  opaque
+    total-tr²-cov-is-♭-equiv
+      : is-♭-equiv (total-tr²-cov {𝓤}{𝓘 ⊔ 𝓥}{B})
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
      : is-♭-equiv (total-tr²-cov {𝓤} {𝓘 ⊔ 𝓥} {B})
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 60]
```diff
@@ -0,0 +1,785 @@
...
+    total-tr²-cov-is-♭-equiv
+      = is-equiv←qinv
+          ( (♭-map (tr²Σ-inv {𝓤} {𝓘 ⊔ 𝓥}))
+          , ♭-ind (λ F
+                   → mapply♭ (mod♭ (ext! λ a
+                   → mk≃ (Gl²←cov-fam {𝓤} {𝓥} F a) (Gl²←cov-fam-is-equiv F a) e⁻¹)))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
          , ♭-ind
              ( λ F
                → mapply♭ (mod♭ (ext! λ a
                → mk≃ (Gl²←cov-fam {𝓤} {𝓥} F a) (Gl²←cov-fam-is-equiv F a) e⁻¹)))
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 61]
```diff
@@ -0,0 +1,785 @@
...
+    -- it's funny that you have to use the sharp modality despite
+    -- the fact that ♭-split is enabled. I think there is some issue
+    -- with the constraint solver in the interaction of modalities
+    -- and indexed inductives. In any case, using the adjunction
+    -- is the 'principled' way to derive crisp induction principles
+    -- and is how it is done in Shulman's original work on cohesive
+    -- type theory
+    ♭Fin-ind₃
+      : ∀ {@♭ 𝓤} (@♭ P : (@♭ x : Fin 3) → Type 𝓤)
+        → @♭ (P 0) → @♭ (P 1) → @♭ P 2 → ∀ (@♭ x) → P x
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
        → @♭ P 0 → @♭ P 1 → @♭ P 2 → ∀ (@♭ x) → P x
```

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 62]
```diff
@@ -0,0 +1,785 @@
...
+          id-is-equiv
+
+module _
+  {@♭ 𝓤 𝓥} {@♭ B : Type 𝓤}
+  (@♭ crisp-cov-Nat-is-equiv
+        : ∀ {@♭ 𝓤} (@♭ F G : Σ (B × Δ² → Type 𝓤) is-covariant)
+            (@♭ α : ∀ i → F .fst i → G .fst i)
+          → @♭ (∀ (@♭ b : B) (@♭ x : Fin (suc (suc (suc zero))))
+                → is-♭-equiv (α (b , Δ²-point-incl x)))
+          → is-fibrewise-equiv α)
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree:724]: Sorry, is this assumption explained anywhere?

Comment (fredrik-bakke) [reply src/Synthetic/Categories/HornGlueing.lagda.tree:724]: nevermind! I asked too quickly

File: src/Synthetic/Categories/Spaces.lagda.tree [hunk 63]
```diff
@@ -645,3 +642,228 @@ we immediately get that the canonical fibred map
...
+
+  tot-dua² : ∀ {@♭ 𝓤} → is-equiv (tot-dua²→ {𝓤 ⊔ 𝓘})
+  tot-dua² {𝓤}
+    = types-separate tot-dua²→
+        (λ {𝓥} {Γ}
+         → src-is-equiv←Arrow-equiv
+             ae
+             (total-tr²-cov-is-♭-equiv {𝓥}{𝓤}
+               (points-Δ²-cov-Nat-is-equiv cubes-separate ♭Δ²-ind))) where
+    open Space
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Spaces.lagda.tree]:
```suggestion
               (points-Δ²-cov-Nat-is-equiv cubes-separate ♭Δ²-ind)))
    where
    open Space
```

File: src/Synthetic/Categories/Spaces.lagda.tree [hunk 64]
```diff
@@ -645,3 +642,228 @@ we immediately get that the canonical fibred map
...
+      ae
+        : Arrow-equiv
+            (♭-map (postcomp Γ (tot-dua²→ {𝓤 ⊔ 𝓘})))
+            (♭-map (total-tr²-cov {𝓥} {𝓘 ⊔ 𝓤} {Γ}))
+      ae .fst .Arrow-Π.top = ♭-map UFib-transport ∘ ♭-map uncurry
+      ae .fst .Arrow-Π.bot = ♭-map Cov-Δ²-bundle←Space
+      ae .fst .Arrow-Π.comm (mod♭ x) = refl
+      ae .snd .fst = is-equiv-∘ UP-UFib (is-♭-equiv←is-equiv uncurry-is-equiv)
+      ae .snd .snd = Cov-Δ²-bundle←Space-is-♭-equiv
+}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Spaces.lagda.tree]: Define using `mk-arr-equiv`

File: src/Synthetic/Categories/Spaces.lagda.tree [hunk 65]
```diff
@@ -645,3 +642,228 @@ we immediately get that the canonical fibred map
...
+	\arrow[from=4-4, to=6-6]
+	\arrow[""{name=0, anchor=center, inner sep=0}, from=6-2, to=6-6]
+	\arrow["\lrcorner"{anchor=center, pos=0.125, rotate=45}, draw=none, from=4-1, to=0]
+\end{tikzcd}
+}
+}
+}
+
+\agda{
+  SpaceΛ₁²Σ-cospan : ∀ (@♭ 𝓥) → Cospan (lsuc (𝓘 ⊔ 𝓥)) (lsuc (𝓘 ⊔ 𝓥)) (lsuc (𝓘 ⊔ 𝓥))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/Spaces.lagda.tree]: I thought you preferred the typesetting `Λ[2,1]`

File: src/Synthetic/Triangles.lagda.tree [hunk 66]
```diff
@@ -29,6 +29,104 @@ open import Core.CanonicalPushouts
...
+
+\p{#{Δ²} has the structure of an [#{\II}-algebra](stt-009Z) and each #{p : i \le j}
+induces a synthetic morphism #{\Hom_{Δ²}(i,j)} (which we often abusively write
+just #{i \le j}).}
+
+\agda{
+module _ (I-distr : is-distributive I) where
+
+  private module I[x] = Lattice (Free-Lattice I I-distr)
+
```
Comment (fredrik-bakke) [inline src/Synthetic/Triangles.lagda.tree]: I think it shoiuld be preferred give local definitions (here `I[x]`) using let bindings in the module telescope

File: trees/stt/tot-YRY4.tree [hunk 67]
```diff
@@ -0,0 +1,159 @@
...
+\meta{source}{[PR\startverb#\stopverb218](https://github.com/samtoth/agda-synthetic-categories/pull/218)}
+\meta{source}{[PR\startverb#\stopverb220](https://github.com/samtoth/agda-synthetic-categories/pull/220)}
+\meta{source}{[PR\startverb#\stopverb225](https://github.com/samtoth/agda-synthetic-categories/pull/225)}
+\import{stt-macros}
+
+
+\p{This changelog details the work I have done recently on
+cleaning up and extending the formalisation of the category of
+spaces. The main result is kind of [directed univalence for covariant families over #{\Delta^2}](tot-L034)
+, leading to a formalisation of the fact that the [classifier for
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
spaces. The main result is kind of [directed univalence for covariant families over #{\Delta^2}](tot-L034),
leading to a formalisation of the fact that the [classifier for
```

File: trees/stt/tot-YRY4.tree [hunk 68]
```diff
@@ -0,0 +1,159 @@
...
+is covariant for contravariant families #{X} and covariant families
+#{Y} (\ref{stt-00OM}). This conceptually isn't a challenging proof, but it was
+difficult to manage all of the coherences. One of the ways this was made easier is
+via the [idea of lifting problems at families of types](stt-00NX) which is a kind
+of straightening-unstraightening trick. \ref{stt-00UJ} then gives us a nice
+characterisation of lifts of #{(b \mapsto X_b \to Y_b)} against #{\{0\} \to \Delta^1}.
+We provide two formalised proofs of the main fact, one which is quite nice and high
+level, but uses the yet to be formalised fact that [left-anodyne maps](stt-00EB) are stable
+under base-change by [right fibrations](stt-00OH). The second takes a slightly brute
+force approach by constructing an equivalence by hand, using the co and
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
force approach by constructing an equivalence by hand, using the co- and
```

File: trees/stt/tot-YRY4.tree [hunk 69]
```diff
@@ -0,0 +1,159 @@
...
+contravariant transport explicitly. Since this PR was made, the observation of
+[[robschellingerhout]] that if each fibre of a type family is a groupoid, then
+it is enough to give a section of the gap map (\ref{stt-00VJ}) has
+been [formalised in the library](stt-00VI) by [Fredrik](fredrikbakke), which should
+allow us to simplify this proof.}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
allow us to simplify this proof. I leave this for future work.}
```
Assuming you didn't already simplify this proof.

File: trees/stt/tot-YRY4.tree [hunk 70]
```diff
@@ -0,0 +1,159 @@
...
+\subtree{
+\title{Disentangling directed univalence}
+
+\p{One of the main ways that we have cleaned up the formalisation is by
+  separating the construction of the classifier for left fibrations from the proof
+of directed univalence.}
+
+\p{For an arbitrary covariant family over #{B \times \Delta^1}, we may use
+  covariant transport to give a pair of covariant families over #{B} together with
+a fibrewise map between them. This latter bit data of data we call
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
a fibrewise map between them. This latter bit of data we call
```

File: trees/stt/tot-YRY4.tree [hunk 71]
```diff
@@ -0,0 +1,159 @@
...
+of the category of spaces is a similar kind of directed univalence statement, this time
+for covariant families over #{\Delta^2}:}
+
+\p{Given a covariant family over #{B \times \Delta^2}, we can construct
+via covariant transport a triple of covariant type families over #{B}, together
+with a pair of composable fibrewise maps between them. #{\Delta^2}-Directed univalence
+then says that this map is a #{\flat}-equivalence. The inverse to this map is
+given by taking covariant families #{X,Y,Z} together with maps #{\alpha \colon X \to Y}
+and #{\beta \colon Y \to Z} and iterating the [directed glueing construction](stt-00UY) to obtain
+##{Gl^2(\alpha,\beta) : (B \times \Delta^1) \times \Delta^1 \to \Type := Gl(Gl(\alpha), Z, \phi)}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]:
```suggestion
##{\Gl^2(\alpha,\beta) : (B \times \Delta^1) \times \Delta^1 \to \Type := \Gl(\Gl(\alpha), Z, \phi)}
```

File: trees/stt/tot-YRY4.tree [hunk 72]
```diff
@@ -0,0 +1,159 @@
...
+\transclude{tot-SYEC}
+
+\subtree{
+\title{Axiomatics}
+
+\p{For the above proof, we require the following axioms:
+
+\ol{
+\li{There is a non-trivial bounded distributive lattice #{\II}}
+\li{The interval is [directed]()}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]: missing link

File: trees/stt/tot-YRY4.tree [hunk 73]
```diff
@@ -0,0 +1,159 @@
...
+\li{There is an ['amazing right adjoint']() to exponentiating by the interval}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]: missing link

File: trees/stt/tot-YRY4.tree [hunk 74]
```diff
@@ -0,0 +1,159 @@
...
+\li{[cubes separate]()}
```
Comment (fredrik-bakke) [inline trees/stt/tot-YRY4.tree]: missing liink

File: trees/stt/stt-00XH.tree
Comment (fredrik-bakke) [inline trees/stt/stt-00XH.tree:1]: I wish I was as good as you at writing changelogs

File: src/Synthetic/Categories/HornGlueing.lagda.tree (hunk 35 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/HornGlueing.lagda.tree:80]: shoot, never mind. Missed that you had `Δ¹-is-segal` in the header.

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 75]
```diff
@@ -0,0 +1,785 @@
...
+}
+}
+
+\agda{
+Δ²-is-segal : is-segal Δ²
+Δ²-is-segal = is-segal←retract Δ²-retract-Δ¹×Δ¹ (×-is-segal Δ¹-is-segal Δ¹-is-segal)
+}
+
+\subtree[tot-AA01]{
+\title{The data of a covariant fibration over #{Δ^2}}
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]:
```suggestion
\title{The data of a covariant fibration over #{Δ²}}
```

**Review by fredrik-bakke — APPROVED** [review]
👍👍👍👍👍

File: src/Synthetic/Categories/HornGlueing.lagda.tree [hunk 76]
```diff
@@ -0,0 +1,785 @@
...
+module Synthetic.Categories.HornGlueing
+  {@♭ 𝓘} (@♭ Δ¹ : Type 𝓘) (@♭ I : Lattice Δ¹) (@♭ I-distr : is-distributive I)
+  (open Lattice I renaming (0l to i0; 1l to i1))
+  (@♭ 0≠1 : i0 ＝ i1 → ∅)
+  (@♭ Δ¹-is-directed : Δ¹-is-directed Δ¹ I)
+  (open Synthetic.Categories.Precategories Δ¹ I)
+  (@♭ Δ¹-is-segal : is-segal Δ¹)
+  (let @♭ Δ² = Algebra.Lattice.Instances.Polynomial.Δ² I)
+  (open Synthetic.Hom Δ¹ i0 i1)
+  (@♭ Δ²-is-coskeletal : ∀ {x y} → is-prop (Hom Δ² x y))
```
Comment (fredrik-bakke) [inline src/Synthetic/Categories/HornGlueing.lagda.tree]: This doesn't look like the correct condition for coskeletality. In fact, Δ² is _not_ 0-coskeletal: there is no map from 2 to 0, for instance. The condition you have written is more akin to "0-coskeletal acyclicity". 

See #266.

EDIT: fixed a off-by-one error

File: src/Synthetic/Categories/HornGlueing.lagda.tree (hunk 35 above)
Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree:80]: I still agree with this actually. I will create a file which will eventually show `Δ¹-is-segal` but for now can be a good place to register that `Δ^n` is Segal as a consequence

File: src/Synthetic/Categories/HornGlueing.lagda.tree (hunk 43 above)
Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: Doubly hedging my bets with "hope" and "putative" :D

File: src/Synthetic/Categories/HornGlueing.lagda.tree (hunk 76 above)
Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: Yes thanks for picking up on that – I was meaning to change this. And right, "0-coskeletal acyclic" because the codiagonal of the boundary inclusion is the map from the walking parallel pair into \II.

Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: Although I was imaging 1-coskeletal when I wrote this name. Am I right in thinking that a _Segal_ type is 1-coskeletal iff it is 0-coskeletal acyclic?

Comment (fredrik-bakke) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: It's not immediately clear to me.

Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: Because if every 2-simlex has a unique filler, then the type `f ~▵ g` is contractible for any f and g.

Comment (fredrik-bakke) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: That gives 1-coskeletal types are 0-coskeletally acyclic. How do you go the other way?

Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: Because a 2-simplex with boundary f,g,h is equivalent to the type fg = h, which is contractible

Comment (fredrik-bakke) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: Wait a second, dont you just get that homotopy is a proposition?

Comment (fredrik-bakke) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: How do you get the homotopy?

Comment (samtoth) [reply src/Synthetic/Categories/HornGlueing.lagda.tree]: I will write up the proof in a bit more detail: Segal and aciclicly 0-coskeletal types are 1-coskeletal.

`(h : Hom(a,c)) × fg = h) -> ((h : Hom(a,c)) × Hom2(f,g,h))`
is a map between contractible types (because of the Segal condition) and hence an equivalence. So the map fg = h -> Hom(f,g,h) is an equivalence for all h.

For f,g and h in the boundary of a 2-simpex, h : Hom(a,c). Hom(a,c) is a proposition and so fg = h is contractible. By the above equivalence, Hom2(f,g,h) is also contractible as required.
